US06235771B1
In DMF (82 ml) was dissolved 4-bromo-2,3-dimethylphenol (8.2 g). To the mixture were added potassium carbonate (7.3 g) and sodium iodide (6.1 g) and then was added dropwise 2-chloroethylpropylether (6.2 ml), and the mixture was stirred at 90 for 10 hours and cooled to room temperature. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column chromatography (hexane/ethyl acetate=12/1) to give 4-bromo-2,3-dimethyl-1-(2-propoxyethoxy)benzene (7.5 g).

reactant | 4-bromo-2,3-dimethylphenol | 8.2 g | BrC1=C(C(=C(C=C1)O)C)C | C8H9BrO
reactant | potassium carbonate | 7.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 6.1 g | [I-].[Na+]
reactant | 2-chloroethylpropylether | 6.2 ml | ClCCOCCC | C5H11ClO
solvent | DMF | 82 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-bromo-2,3-dimethyl-1-(2-propoxyethoxy)benzene | 7.5 g | BrC1=C(C(=C(C=C1)OCCOCCC)C)C | C13H19BrO2
